US05688815
3-Benzyoxy-2-[(4-methylthiophenyl)-(tetrahydropyran-2-yoxy)-methyl]-pyran4-one: Reaction of 16.7 g of 3-benzyloxy-2-[hydroxy-(4-methylthio-phenyl)-methyl]-pyran-4-one with 3,4-dihydro-2H-pyran analogously to Example 1b yields crude 3-benzyloxy-2-[(4-methylthio-phenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-pyran-4-one in the form of a diastereoisomeric mixture. Rf value 0.65 (silica gel 60, hexane/dichloromethanelethyl acetate 1/1/1).

reactant | 3-benzyloxy-2-[hydroxy-(4-methylthio-phenyl)-methyl]-pyran-4-one | 16.7 g | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C(C1=CC=C(C=C1)SC)O | C20H18O4S
reactant | 3,4-dihydro-2H-pyran | O1CCCC=C1 | C5H8O
product | 3-benzyloxy-2-[(4-methylthio-phenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-pyran-4-one | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C(OC1OCCCC1)C1=CC=C(C=C1)SC | C25H26O5S
